* fuzz face BC109C kicad-spice-library.lib
.include "models/bjt/BC109C/kicad-spice-library.lib"
.include "components/potentiometer/potentiometer.sub"
V1 vcc 0 9
Vin in 0 SIN(0 {amp} 1k)
C1 in b1 2.2u
Q1 c1 b1 0 BC109C
R1 vcc c1 33k
Q2 c2 c1 e2 BC109C
R2 c2 tap 470
R3 tap vcc 8.2k
Rf e2 b1 100k
Xfuzz 0 fw e2 pot_lin R=1k rot={fuzz}
Cfz fw 0 20u
C3 tap o1 10n
Xvol 0 out o1 pot_log R=500k rot=1
RL out 0 1Meg
.param amp=0.1 fuzz=1
.tran 0 30m 10m 5u
